US09382228B2
A solution of 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonic acid (1.13 g, 5.00 mmol) in pyridine (25 mL) was heated at 100° C. overnight, cooled to RT and concentrated to dryness. The residue was dissolved in 3N HCl, extracted with DCM (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness to afford 3-(1-(trifluoromethyl)cyclopropyl)propanoic acid (664 mg, 73%). 1H NMR (400 MHz, DMSO-d6): δ 12.18 (s, 1H), 2.32 (t, J=8.0 Hz, 2H), 1.79 (t, J=8.0 Hz, 2H), 0.86 (m, 2H), 0.75 (m, 2H).

reactant | 2-((1-(trifluoromethyl)cyclopropyl)methyl)malonic acid | 5.00 mmol, 1.13 g | FC(C1(CC1)CC(C(=O)O)C(=O)O)(F)F | C8H9F3O4
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-(1-(trifluoromethyl)cyclopropyl)propanoic acid | 664 mg, 73% | FC(C1(CC1)CCC(=O)O)(F)F | C7H9F3O2
